US05278161
In a manner analogous to Example 1, by condensing 2-hydrazino-3-isopropyl-5-(3-pyridyl)pyrazine with diethyl (imidazol-4-ylmethyl)malonate there is obtained ethyl rac-8-isopropyl-α-(imidazol-4-ylmethyl)-6-(3-pyridyl)-s-triazolo[4,3-a]pyrazine-3-acetate, MS: 405 (M)+, which is converted into the above acid by alkaline saponification.

reactant | 2-hydrazino-3-isopropyl-5-(3-pyridyl)pyrazine | N(N)C1=NC=C(N=C1C(C)C)C=1C=NC=CC1 | C12H15N5
reactant | diethyl (imidazol-4-ylmethyl)malonate | N1C=NC(=C1)CC(C(=O)OCC)C(=O)OCC | C11H16N2O4
product | ethyl rac-8-isopropyl-α-(imidazol-4-ylmethyl)-6-(3-pyridyl)-s-triazolo[4,3-a]pyrazine-3-acetate | C(C)(C)C=1C=2N(C=C(N1)C=1C=NC=CC1)C(=NN2)C(C(=O)OCC)CC=2N=CNC2 | C21H23N7O2
